US04556672
To a stirred slurry of 1.5 g. (5.4 mmole) of 3-(2-thenoyl)-5-chloro-2-oxindole in 15 ml. of dry acetonitrile was added 0.52 ml. (5.9 mmole) of chlorosulfonyl isocyanate, and the reaction mixture was stirred at room temperature for 2 hours. A small sample was removed, filtered and evaporated in vacuo to give a small sample of N-chlorosulfonyl-3-(2-thenoyl)-5-chloro-2-oxindole-1-carboxamide, mp 166°-169° C. To the remainder of the reaction mixture, 30 ml. of water was added slowly with stirring and stirring was continued for 1 hour. The reaction mixture was then poured into 50 ml. of 1N hydrochloric acid containing ice chips, and the resulting mixture was stirred for 20 minutes. The yellow solid was recovered by filtration, washed with water and diisopropyl ether and recrystallized from glacial acetic acid to give 200 mg. of a first crop of the title compound, mp 213°-215° C. The mother liquors from which the first crop had been recovered deposited a further yellow solid. The latter solid was recovered by filtration to give 470 mg. of a second crop of the title compound. The second crop was recrystallized from glacial acetic acid and combined with the first crop and recrystallized from glacial acetic acid. This gave 280 mg. of the title compound, mp 232°-234° C.

reactant | 3-(2-thenoyl)-5-chloro-2-oxindole | 5.4 mmole | C1(=CC=CS1)C(=O)C1C(NC2=CC=C(C=C12)Cl)=O | C13H8ClNO2S
reactant | chlorosulfonyl isocyanate | 5.9 mmole | ClS(=O)(=O)N=C=O | CClNO3S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-chlorosulfonyl-3-(2-thenoyl)-5-chloro-2-oxindole-1-carboxamide | ClS(=O)(=O)NC(=O)N1C(C(C2=CC(=CC=C12)Cl)C(C1=CC=CS1)=O)=O | C14H8Cl2N2O5S2
